US06599908B1
THF—tetrahydrofuran;
DMF—dimethylformamide; DMSO—dimethylsulphoxide; DMAP—dimethylaminopyridine.

reactant | DMF dimethylformamide | CN(C)C=O.CN(C=O)C | 2C3H7NO
reactant | DMAP dimethylaminopyridine | CN(C)C=1C=CN=CC1.CN(C)C1=NC=CC=C1 | 2C7H10N2
solvent | DMSO dimethylsulphoxide | CS(=O)C.CS(=O)C | 2C2H6OS
product | THF tetrahydrofuran | C1CCOC1.O1CCCC1 | 2C4H8O
